US04970126
Synthesis of Acrylic Copolymer Resin
180 parts of isopropyl alcohol were put in an one-liter four-necked flask equipped with a thermometer, a stirrer, a condenser and a dropping funnel. After nitrogen replacement, the interior temperature of the flask was regulated to about 85° C. Afterwards, a monomer mixture consisting of 180 parts of methyl methacrylate, 15 parts of ethyl methacrylate, 30 parts of n-butyl methacrylate, 30 parts of styrene, 30 parts of N-n-butoxyethyl methacrylate and 15 parts of hydroxyethyl methacrylate were added dropwise into the flask with a catalyst comprising 6 parts of 2,2-azobis(2,4-dimethylvaleronitrile) over about 2 hours. After the completion of the dropwise addition, the reaction was continued at that temperature for further five hours to obtain a colorless, transparent resin solution having a solid content of about 63%.

reactant | methyl methacrylate | C(C(=C)C)(=O)OC | C5H8O2
reactant | ethyl methacrylate | C(C(=C)C)(=O)OCC | C6H10O2
reactant | n-butyl methacrylate | C(C(=C)C)(=O)OCCCC | C8H14O2
reactant | styrene | C=CC1=CC=CC=C1 | C8H8
reactant | hydroxyethyl methacrylate | C(C(=C)C)(=O)OCCO | C6H10O3
solvent | isopropyl alcohol | C(C)(C)O | C3H8O
product | Acrylic Copolymer Resin | CCCCC(CC)COC(=O)C=C.CCCCOC(=O)C=C | InChI=1S/C11H20O2.C7H12O2/c1-4-7-8-10(5-2)9-13-11(12)6-3;1-3-5-6-9-7(8)4-2/h6,10H,3-5,7-9H2,1-2H3;4H,2-3,5-6H2,1H3
